US09079866B2
racemic 1-((2-Bromophenyl)sulfonyl)piperidin-3-amine hydrochloride salt
A solution of racemic tert-butyl (1-((2-bromophenyl)sulfonyl)piperidin-3-yl)carbamate (82 mg, 0.20 mmol) in CH2Cl2 (5 mL) was treated with 2 N HCl/Et2O (1 mL, 2 mmol) and stirred 16 hours at rt. The reaction mixture was then concentrated to dryness to give the title compound in quantitative yield. The product was used without further purification.

reactant | racemic tert-butyl (1-((2-bromophenyl)sulfonyl)piperidin-3-yl)carbamate | 0.20 mmol, 82 mg | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(CCC1)NC(OC(C)(C)C)=O | C16H23BrN2O4S
reactant | HCl Et2O | 2 mmol, 2 N, 1 mL | Cl.CCOCC
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | racemic 1-((2-Bromophenyl)sulfonyl)piperidin-3-amine hydrochloride salt | quantitative yield | Cl.BrC1=C(C=CC=C1)S(=O)(=O)N1CC(CCC1)N | InChI=1S/C11H15BrN2O2S.ClH/c12-10-5-1-2-6-11(10)17(15,16)14-7-3-4-9(13)8-14;/h1-2,5-6,9H,3-4,7-8,13H2;1H
